US07122558B2
Preparation of 2-Cyclopentyl-2-hydroxy-2-phenylacetic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester
Prepared using the same method as for Intermediate I-1, but from 13.5 g (0.0576 mol) of 2-Cyclopentyl-2-hydroxy-2-phenylacetic acid methyl ester (commercially available) dissolved in 350 ml of toluene, 8.0 g (0.063 mol) of (3R)-3-hydroxy-1-azabicyclo[2.2.2]octane and 0.91 g (0.023 mol) of HNa (60% dispersion in mineral oil). The yield was 13.1 g (69%) of the title product as an oil mixture of diastereomers, structure confirmed by 1H-NMR. The two diastereomers I-5a and I-5b were separated after several crystallizations.

reactant | 2-Cyclopentyl-2-hydroxy-2-phenylacetic acid methyl ester | 0.0576 mol, 13.5 g | COC(C(C1=CC=CC=C1)(O)C1CCCC1)=O | C14H18O3
reactant | (3R)-3-hydroxy-1-azabicyclo[2.2.2]octane | 0.063 mol, 8.0 g | O[C@H]1CN2CCC1CC2 | C7H13NO
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclopentyl-2-hydroxy-2-phenylacetic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester | yield was 13.1 g, 69% | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)(O)C2CCCC2)=O | C20H27NO3
